US05276039
Step A: 2-[(2-phenyl-2-propenyl)thio]benzenamine
The compound, 2-aminothiophenol, (12.5 g) was added to a solution of sodium hydroxide (4.5 g) in ethanol (100 ml) keeping the temperature less than 30° C. Then 1-bromo-2phenyl-2-propene (21 g) was added and the mixture was stirred at 60° C. for 3 h. The precipitated solid was filtered and washed with ethanol. The solvent was removed and the residue was chromatographed on silica gel with hexanes/ethyl acetate (7:1) to yield the title compound (14.5 g). As an oil.

reactant | 2-aminothiophenol | 12.5 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium hydroxide | 4.5 g | [OH-].[Na+]
reactant | 1-bromo-2phenyl-2-propene | 21 g | BrCC(=C)C1=CC=CC=C1 | C9H9Br
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[(2-phenyl-2-propenyl)thio]benzenamine | 14.5 g | C1(=CC=CC=C1)C(CSC1=C(C=CC=C1)N)=C | C15H15NS
